US09085583B2
2,4-dichloro-6-methylnicotinonitrile (45 g, 240 mmol) was dissolved in CH3OH (300 ml). NaOMe (30% in MeOH, 100 ml, 1680 mmol) was added. The mixture was refluxed for 4 h. After cooled to r.t., the reaction mixture was neutralized by HOAc. The solvent was removed under vacuum and the residue was washed with H2O (300 ml) and MTBE (100 ml). The resulting solid was coevaporated with dry THF (300 ml) to give 2,4-dimethoxy-6-methylnicotinonitrile as a dark-yellow solid. (40 g, yield 95%).

reactant | 2,4-dichloro-6-methylnicotinonitrile | 240 mmol, 45 g | ClC1=C(C#N)C(=CC(=N1)C)Cl | C7H4Cl2N2
reactant | NaOMe | 1680 mmol, 100 ml | C[O-].[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | CH3OH | 300 ml | CO | CH4O
product | 2,4-dimethoxy-6-methylnicotinonitrile | yield 95% | COC1=C(C#N)C(=CC(=N1)C)OC | C9H10N2O2
